US08039463B2
A mixture of toluene (15 mL) and water (5 mL) was degassed with argon gas for 5 minutes. Sodium carbonate (481 mg, 4.5 mmol) was added and the resulting mixture was again degassed with argon gas for 5 minutes. Phenyl boronic acid (353 mg, 2.7 mmol) and 5-iodo-pyridin-2-ylamine (500 mg, 2.27 mmol) were added and the mixture was again degassed with argon gas for 5 minutes. Tetrakis palladium triphenyl phosphine (525 mg, 4.5 mmol) was then added and the mixture was again degassed with argon gas for 5 minutes. The resulting mixture was heated to reflux for 3 hours. The mixture was then diluted with ethyl acetate and washed with water followed by brine solution. The ethyl acetate layer was collected, dried over sodium sulphate and concentrated under reduced pressure. The resulting residue was purified by column chromatography using silica gel 60-120 mesh (35% ethyl acetate in hexane) to afford 10 mg (28%) of 5-phenyl-pyridin-2-ylamine. LCMS: 171.09 (M+1)+, 60.5%.

reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | Sodium carbonate | 4.5 mmol, 481 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Phenyl boronic acid | 2.7 mmol, 353 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 5-iodo-pyridin-2-ylamine | 2.27 mmol, 500 mg | IC=1C=CC(=NC1)N | C5H5IN2
catalyst | Tetrakis palladium triphenyl phosphine | 4.5 mmol, 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd].[Pd].[Pd].[Pd]
solvent | water | 5 mL | O | H2O
product | 5-phenyl-pyridin-2-ylamine | 10 mg, 28% | C1(=CC=CC=C1)C=1C=CC(=NC1)N | C11H10N2
